US07384934B2
Combine 6-fluoro-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride (0.304 g, 1.07 mmol), (S)-2-(3-methoxy-propyl)-piperazine (0.339 g, 2.14 mmol), and diisopropylethyl amine (0.19 mL, 1.07 mmol) in a mixture of toluene (3 mL) and dimethylsulfoxide (1 mL) and stir at 110° C. for 24 hours. Evaporate the mixture then purify by flash chromatography, eluting with a step gradient starting with dichloromethane going to 5% 2N ammonia-methanol in dichloromethane gives (s)-6-fluoro-10-[3-(3-methoxy-propyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene (0.110 g, 0.283 mmol, 26%) as a yellow oil. Mass spectrum (APCI): m/z=389.1 (M+1).

reactant | 6-fluoro-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride | 1.07 mmol, 0.304 g | Cl.FC=1C=CC2=C(NC=3SC(=CC3C(=N2)N)C)C1
reactant | (S)-2-(3-methoxy-propyl)-piperazine | 2.14 mmol, 0.339 g | COCCC[C@@H]1NCCNC1 | C8H18N2O
reactant | diisopropylethyl amine | 1.07 mmol, 0.19 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | dimethylsulfoxide | 1 mL | CS(=O)C | C2H6OS
product | (s)-6-fluoro-10-[3-(3-methoxy-propyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene | 0.283 mmol, 0.110 g, 26% | FC=1C=CC2=C(NC=3SC(=CC3C(=N2)N2C[C@@H](NCC2)CCCOC)C)C1 | C20H25FN4OS
